US08685977B2
Ethyl 4-[3-(trifluoromethoxy)benzyl]benzoate
A mixture of zinc (807 mg, 12.3 mmol) and lithium chloride (523 mg, 12.3 mmol) under argon was warmed for 10 minutes using a hot air gun, allowed to cool and then anhydrous THF (50 mL) added. The zinc was activated by treatment with 1,2-dibromoethane (39 mg, 0.21 mmol) and TMSCl (4.3 mg, 0.04 mmol). To the resulting mixture at 25° C. was added ethyl 4-(bromomethyl)benzoate (1.0 g, 4.15 mmol) and the mixture stirred for 15 minutes. 3-(Trifluoromethoxy)bromobenzene (694 mg, 2.88 mmol) was added, followed by (1,3-bis(2,6-diisopropylphenyl)imidazolidene)(3-chloropyridyl)palladium(II) dichloride [PEPPSI™-SIPr] (28 mg, 0.04 mmol) and the mixture stirred at 25° C. for 1 hour. Saturated ammonium chloride solution was added and the crude product extracted with ether. The ether extract was washed with brine, dried over Na2SO4 and the solvent evaporated in vacuo. The crude product was purified by silica gel column chromatography eluting with 7:3 hexane:ethyl acetate to afford the title compound (950 mg, 71%).

reactant | lithium chloride | 12.3 mmol, 523 mg | [Cl-].[Li+]
reactant | ethyl 4-(bromomethyl)benzoate | 4.15 mmol, 1.0 g | BrCC1=CC=C(C(=O)OCC)C=C1 | C10H11BrO2
reactant | 3-(Trifluoromethoxy)bromobenzene | 2.88 mmol, 694 mg | FC(OC=1C=C(C=CC1)Br)(F)F | C7H4BrF3O
reactant | SIPr | CC(C)C1=C(C(=CC=C1)C(C)C)N2CC[N+](=[C-]2)C3=C(C=CC=C3C(C)C)C(C)C | C27H38N2
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | zinc | 12.3 mmol, 807 mg | [Zn] | Zn
catalyst | (1,3-bis(2,6-diisopropylphenyl)imidazolidene)(3-chloropyridyl)palladium(II) dichloride | 0.04 mmol, 28 mg | CC(C)C1=C(C(=CC=C1)C(C)C)N2CCN([CH-]2)C3=C(C=CC=C3C(C)C)C(C)C.C1=CC(=CN=C1)Cl.Cl[Pd]Cl
catalyst | 1,2-dibromoethane | 0.21 mmol, 39 mg | BrCCBr | C2H4Br2
catalyst | TMSCl | 0.04 mmol, 4.3 mg | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | Ethyl 4-[3-(trifluoromethoxy)benzyl]benzoate | 950 mg, 71% | FC(OC=1C=C(CC2=CC=C(C(=O)OCC)C=C2)C=CC1)(F)F | C17H15F3O3
